US07622469B2
4-Octylamino-2-cyclohexylmethylamino-3,6-dihydro-6,6-dimethyl-1,3,5-triazine acetate
100 ml of methanol, 80 ml of acetone and 0.6 ml of concentrated hydrochloric acid were added to 9.0 g (23.5 mmol) of N1-cyclohexylmethyl-N5-octyl-biguanide dihydrochloride. The mixture was refluxed for 21 hours, and the solvent was distilled off under reduced pressure. To the residue were added 120 ml of ethanol, 80 ml of water, and 9.5 ml of 5N sodium hydroxide, and the mixture was refluxed for 1 hour, concentrated under reduced pressure, and extracted with methyl ethyl ketone. The extract was washed with water, and 1.7 g of acetic acid was added thereto. The solvent was distilled of f under reduced pressure, and the residue was dried well, and recrystallized from methyl ethyl ketone two times to obtain 4.9 g of colorless crystals having a melting point of 70 to 73° C.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
reactant | N1-cyclohexylmethyl-N5-octyl-biguanide dihydrochloride | 23.5 mmol, 9.0 g | Cl.Cl.C1(CCCCC1)CNC(=N)NC(=N)NCCCCCCCC
reactant | acetone | 80 ml | CC(=O)C | C3H6O
product | 4-Octylamino-2-cyclohexylmethylamino-3,6-dihydro-6,6-dimethyl-1,3,5-triazine acetate | 4.9 g | C(C)(=O)O.C(CCCCCCC)NC=1NC(=NC(N1)(C)C)NCC1CCCCC1 | InChI=1S/C20H39N5.C2H4O2/c1-4-5-6-7-8-12-15-21-18-23-19(25-20(2,3)24-18)22-16-17-13-10-9-11-14-17;1-2(3)4/h17H,4-16H2,1-3H3,(H3,21,22,23,24,25);1H3,(H,3,4)
